US08686024B2
Synthesis of 1-benzylindolin-5-yl 2,3-dihydro-1,4-benzodioxin-6-ylcarbamate
The title compound was synthesized from 1-benzylindolin-5-ol (30.0 mg, 0.133 mmol) using the same procedure employed for Example 2 (2), but with 2,3-dihydro-1,4-benzodioxin-6-ylisocyanate instead of 4-isopropylphenylisocyanate. The product was obtained as a solid (29.1 mg, 50%) having the following characteristics.

reactant | 1-benzylindolin-5-ol | 0.133 mmol, 30.0 mg | C(C1=CC=CC=C1)N1CCC2=CC(=CC=C12)O | C15H15NO
reactant | 2,3-dihydro-1,4-benzodioxin-6-ylisocyanate | O1CCOC2=C1C=CC(=C2)N=C=O | C9H7NO3
product | 1-benzylindolin-5-yl 2,3-dihydro-1,4-benzodioxin-6-ylcarbamate | O1CCOC2=C1C=CC(=C2)NC(OC=2C=C1CCN(C1=CC2)CC2=CC=CC=C2)=O | C24H22N2O4
